US06320050B1
A solution of 3-cyclopentyl-2-(3-nitro-phenyl)-propionic acid (432 mg, 1.64 mmol) in methylene chloride (16 mL) was cooled to 0° C. and then treated with a 2.0 M solution of oxalyl chloride in methylene chloride (0.90 mL, 1.80 mmol) and a few drops of N,N-dimethylformamide. The reaction mixture was stirred at 0° C. for 15 min and at 25° C. for 1.2 h. The reaction mixture was then treated with a solution of 2-aminothiazole (361.4 mg, 3.61 mmol) in tetrahydrofuran (16 mL) and N,N-diisopropylethylamine (0.70 mL, 3.93 mmol). The reaction mixture was stirred at 25° C. for 6 h. At this time, the reaction was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh 70/30 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(nitrophenyl)-N-thiazol-2-yl-propionamide (409.3 mg, 72.2%) as a tan solid: mp 171-174° C.; EI-HRMS m/e calcd for C17H19N3O3S (M+) 345.1147, found 345.1153.

reactant | 3-cyclopentyl-2-(3-nitro-phenyl)-propionic acid | 1.64 mmol, 432 mg | C1(CCCC1)CC(C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-] | C14H17NO4
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminothiazole | 3.61 mmol, 361.4 mg | NC=1SC=CN1 | C3H4N2S
reactant | N,N-diisopropylethylamine | 3.93 mmol, 0.70 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tetrahydrofuran | 16 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 16 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 1.80 mmol, 0.90 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-(nitrophenyl)-N-thiazol-2-yl-propionamide | 409.3 mg, 72.2% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=C(C=CC=C1)[N+](=O)[O-] | C17H19N3O3S
